US07910592B2
To a solution of benzyl 5-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-1,3-dihydro-2H-isoindole-2-carboxylate (12 mg, 0.016 mmol) in AcOH (0.5 mL) was added a catalytic amount of Pd/C (10%). The mixture was stirred at room temperature under a H2 atmosphere for 2 h. The reaction mixture was filtered through Celite and the filtrate was adjusted to basic pH with sat. aq. NaHCO3. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with brine (1×), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by preparative reverse phase HPLC (C-18), eluting with MeCN/water. The fractions were collected and lyophilized to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. LCMS calc.=611.2; found=610.8 (M+H)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers): δ 7.87 (s, 1H); 7.70 (s, 2H); 7.42 (s, 0.5H); 7.33 (s, 0.5H); 7.14 (s, 0.5H); 7.13 (s, 0.5H); 7.04 (d, J=8.5 Hz, 0.5H); 7.00 (d, J=8.5 Hz, 0.5H); 6.70 (d, J=5.4 Hz, 0.5H); 6.67 (d, J=5.3 Hz, 0.5H); 5.57 (d, J=8.1 Hz, 0.5H); 5.39 (d, J=8.0 Hz, 0.5H); 4.85 (d, J=15.4 Hz, 0.5H); 4.81 (d, J=15.5 Hz, 0.5H); 4.33 (s, 4H); 4.08 (d, J=15.4 Hz, 0.5H); 3.83 (d, J=15.4 Hz, 0.5H); 3.78 (s, 3H); 3.86-3.75 (m, 1H); 3.26-3.18 (m, 1H); 2.61 (br s, 1H); 1.31-1.25 (m, 4H); 1.19 (d, J=6.9 Hz, 2H); 0.52 (d, J=6.5 Hz, 1.5H); 0.34 (d, J=6.5 Hz, 1.5H).

reactant | benzyl 5-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-1,3-dihydro-2H-isoindole-2-carboxylate | 0.016 mmol, 12 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC=1C=C2CN(CC2=CC1C1=C(C=C(C(=C1)C(C)C)F)OC)C(=O)OCC1=CC=CC=C1)C)(F)F | C39H35F7N2O5
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC=1C=C2CNCC2=CC1C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C31H29F7N2O3
